US04294960
A mixture of 7-[2-(2-formamidothiazol-4-yl)-2-(tert-butoxycarbonylmethoxyimino)acetamido]-3-cephem-4-carboxylic acid (syn isomer, 2.8 g.), anisole (2.8 ml.) and trifluoroacetic acid (11.2 ml.) was stirred at room temperature for an hour. Ethyl acetate and water were added to the resultant solution and adjusted to pH 7.0 with sodium bicarbonate. The aqueous layer was separated, and the ethyl acetate layer was extracted with water. The aqueous extracts were combined, washed with ethyl acetate and diethyl ether in turn, and then adjusted to pH 2.0 with 10% hydrochloric acid under ice cooling. The precipitates were collected by filtration, washed with water and dried to give 7-[2-(2-formamidothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-cephem-4-carboxylic acid (syn isomer, 1.43 g.).

reactant | 7-[2-(2-formamidothiazol-4-yl)-2-(tert-butoxycarbonylmethoxyimino)acetamido]-3-cephem-4-carboxylic acid | 2.8 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCC(=O)OC(C)(C)C | C19H21N5O8S2
reactant | anisole | 2.8 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 11.2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-[2-(2-formamidothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-cephem-4-carboxylic acid | 1.43 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCC(=O)O | C15H13N5O8S2
